US06423713B1
A solution of 4-chlorophenyl-2-(pyridin-4-yl)ethan-1-one (20.0 g, 86.4 mmol) and N,N-dimethylformamide dimethylacetal (57.6 mL, 0.43 mole) was heated at 100° C. for 3½ hours. The reaction mixture was concentrated in vacuo, and the residue crystallized from methyl butyl ether to give 3-dimethylamino-1-(4-chlorophenyl)-2-(pyridin-4-yl)-2-propen-1-one (22.80 g, 93%). 1H NMR (CDCl3/300 MHz) δ8.52 (d, 2H), 7.38 (d, 2H), 7.29 (d, 2H), 7.08 (d, 2H), 2.83 (s, 6H).

reactant | 4-chlorophenyl-2-(pyridin-4-yl)ethan-1-one | 86.4 mmol, 20.0 g | ClC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C13H10ClNO
reactant | N,N-dimethylformamide dimethylacetal | 0.43 mole, 57.6 mL | COC(N(C)C)OC | C5H13NO2
product | 3-dimethylamino-1-(4-chlorophenyl)-2-(pyridin-4-yl)-2-propen-1-one | 22.80 g, 93% | CN(C=C(C(=O)C1=CC=C(C=C1)Cl)C1=CC=NC=C1)C | C16H15ClN2O
